US05352701
Under the conditions of example 3A, 28.8g of aluminum chloride in 320 ml of dichloromethane is reacted with 11.9g of glutaric acid monomethyl ester chloride and 10g of veratrole, worked up and chromatographed. The thus obtained crude product is further reacted under the conditions of example 3A with 270g of pyridinehydrochloride and worked up. 5.6g of 5-(3,4-dihydroxyphenyl)- 5-oxo-pentanoic acid of melting point 210°-215° C. is obtained as crude product.

reactant | aluminum chloride | 28.8g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | glutaric acid monomethyl ester chloride | 11.9g | [Cl-].COC(CCCC(=O)O)=O
reactant | veratrole | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | pyridinehydrochloride | Cl.N1=CC=CC=C1
solvent | dichloromethane | 320 ml | ClCCl | CH2Cl2
product | 5-(3,4-dihydroxyphenyl)- 5-oxo-pentanoic acid | 5.6g | OC=1C=C(C=CC1O)C(CCCC(=O)O)=O | C11H12O5
